US07259266B2
Step 2. Preparation of ethyl 6-chloro-5-isopropyl-8-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate
A mixture of 3-chloro-6-hydroxy-2-isopropyl-5-methylbenzaldehyde (1.83 g, 8.6 mmole), K2CO3 (2.38 g, 17.3 mmole) and ethyl 4,4,4-trifluorocrotonate (2.17 g, 12.9 mmole) in anhydrous DMF (10.0 mL) was heated to 90° C. under a dry N2 atmosphere for 18 hrs. The mixture was then cooled, poured into 0.5 N HCl (50 ml) and extracted with EtOAc (2×50 mL). The combined extracts were washed with brine (50 mL), dried over MgSO4, filtered and concentrated in vacuo to give a dark oil which was subject to flash chromatography (silica gel) and eluted with 50% CH2Cl2/hexanes to give a yellow oil (2.1 g, 68%): GCMS m/z 362.0 (M+). 1H NMR (CDCl3/400 MHz) 8.07 (s, 1H), 7.02 (s, 1H), 5.64 (q, 1H, J=7.0 Hz), 4.23 (m, 2H), 3.39 (s, 3H), 3.23 (m, 1H), 1.26 (m, 3H), 1.12 (m, 6H).

reactant | 3-chloro-6-hydroxy-2-isopropyl-5-methylbenzaldehyde | 8.6 mmole, 1.83 g | ClC=1C(=C(C=O)C(=C(C1)C)O)C(C)C | C11H13ClO2
reactant | K2CO3 | 17.3 mmole, 2.38 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 4,4,4-trifluorocrotonate | 12.9 mmole, 2.17 g | FC(/C=C/C(=O)OCC)(F)F | C6H7F3O2
reactant | HCl | 0.5 N, 50 ml | Cl | ClH
solvent | DMF | 10.0 mL | CN(C)C=O | C3H7NO
product | ethyl 6-chloro-5-isopropyl-8-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 2.1 g, 68% | ClC=1C(=C2C=C(C(OC2=C(C1)C)C(F)(F)F)C(=O)OCC)C(C)C | C17H18ClF3O3
